US04048311
Methyl 10-sulfodecyldithiocarbamate (31.4 g., 0.096 mol.) is reacted with 6.5 g. (0.1 mol.) of sodium azide as described above to give 1-(10-sulfodecyl)tetrazole-5-thiol.

reactant | Methyl 10-sulfodecyldithiocarbamate | 0.096 mol, 31.4 g | S(=O)(=O)(O)CCCCCCCCCCNC(SC)=S | C12H25NO3S3
reactant | sodium azide | 0.1 mol | [N-]=[N+]=[N-].[Na+]
product | 1-(10-sulfodecyl)tetrazole-5-thiol | S(=O)(=O)(O)CCCCCCCCCCN1N=NN=C1S | C11H22N4O3S2
